US07560473B2
To the mixture of 288 mL glacial acetic acid, 412 g (6.86 mole) urea and 288 g (3.43 mole) 2,3-dimethyl-2-butene, the solution of 412 mL concentrated sulfuric acid and 412 mL of glacial acetic acid was added dropwise under stirring, while maintaining the reaction temperature at the range of 45° C. to 50° C., then stirred for 5 hours at the temperature of 50-55° C. The mixture stood overnight. Next day, the mixture was reacted for another 7 hours at the temperature of 50-55° C., then poured into the solution of 1200 g (30 mole) sodium hydroxide in 8 L glacial water. The resulting solid was filtered, washed with water (200 mL×5) and dried to give 404 g (yield 81.8%) N-(2,3-dimethyl-2-butyl)urea as white solid, mp 175-176° C. Elemental analysis for C7H16N2O(%): Calculated C, 58.30; H, 11.18; N, 19.42. Found C, 58.70; H, 11.54; N, 19.25. 1H-NMR(CDCl3, ppm) 0.88-0.91(d, 6H, 2×CH3), 1.26(s, 6H, 2×CH3), 2.20-2.26(m, 1H, CH), 4,45(br, 2H), 4.65(br, 1H). MS(m/z) 145.0, 144.0(M+), 143.0, 129.1, 101.0, 86.1, 69.1, 58.0(B).

reactant | urea | 6.86 mole, 412 g | NC(=O)N | CH4N2O
reactant | 2,3-dimethyl-2-butene | 3.43 mole, 288 g | CC(C)=C(C)C | C6H12
reactant | sulfuric acid | 412 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 30 mole, 1200 g | [OH-].[Na+]
solvent | water | 8 L | O | H2O
solvent | acetic acid | 412 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 288 mL | C(C)(=O)O | C2H4O2
product | N-(2,3-dimethyl-2-butyl)urea | 404 g, yield 81.8% | CC(C)(C(C)C)NC(=O)N | C7H16N2O
